US06936632B2
a) 6-(4-Chlorophenyl)-7-phenyl-2,3-dihydro-1H-pyrrolizine
(according to Laufer et al. J. Med. Chem. 1994, 37, 1894-1897) 2-Benzyl-1-pyrroline (Example 1 a, 19.8 g, 80% strength, 0.1 mol), dissolved in MeOH (300 ml) is treated with 4-chlorophenacyl bromide (23,4 g, 0.1 mol) and then with NaHCO3 (10 g, 0.12 mol) and stirred at RT for 16 h with exclusion of light. Precipitated crystallizate is filtered off with suction and washed with MeOH. 16.4 g (56%) of product are obtained after drying.

reactant | 2-Benzyl-1-pyrroline | C(C1=CC=CC=C1)C1=NCCC1 | C11H13N
reactant | 4-chlorophenacyl bromide | 0.1 mol, 23,4 g | ClC1=CC=C(C(CBr)=O)C=C1 | C8H6BrClO
reactant | NaHCO3 | 0.12 mol, 10 g | C(=O)(O)[O-].[Na+]
solvent | MeOH | 300 ml | CO | CH4O
product | 6-(4-Chlorophenyl)-7-phenyl-2,3-dihydro-1H-pyrrolizine | 16.4 g, 56% | ClC1=CC=C(C=C1)C1=CN2CCCC2=C1C1=CC=CC=C1 | C19H16ClN
